US09062070B2
Step A: 3-bromo-6-fluoro-2-methoxybenzonitrile (Method 1)
2-Fluoro-6-methoxybenzonitrile (8.30 g, 54.9 mmol) was dissolved in triflic acid (75 mL) at 0° C. then NBS (10.3 g, 57.7 mmol) was added. The reaction mixture was stirred at RT for 1 h. LC-MS showed no starting material peak. The reaction mixture was poured into ice and extracted twice with DCM. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and evaporated to dryness. The residue was purified by chromatography through a 330 g Redi-Sep column and eluted with 10% to 50% EtOAc/hexane solvent system to yield the title compound.

reactant | 2-Fluoro-6-methoxybenzonitrile | 54.9 mmol, 8.30 g | FC1=C(C#N)C(=CC=C1)OC | C8H6FNO
reactant | NBS | 57.7 mmol, 10.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | triflic acid | 75 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
product | 3-bromo-6-fluoro-2-methoxybenzonitrile | BrC=1C(=C(C#N)C(=CC1)F)OC | C8H5BrFNO
